* Vector Fitting — Foster-I RLC Subcircuit
* Generated by vfit/export/spice_export.py
* Poles: 4   RMS error: 2.243e-11

.SUBCKT SIMPLE_RLC_FOSTER 1 0

* Branch 0: series inductance (e-term)
L0000   1  n0000  1u

* Branch 1: series resistance (d-term)
R0000   n0000  n0001  10

* Branch 2: parallel RLC  pole=-2.8476e+08+1.3699e+10j
* Z = 1/(1/R + 1/sL + sC),  R=46.58p,  L=1.4130e-22,  C=37.7
R0001  n0001 n0002  46.58p
L0001  n0001 n0002  1.4130e-22
C0000  n0001 n0002  37.7

* Branch 3: parallel RLC  pole=-2.3051e-01+2.2915e+01j
* Z = 1/(1/R + 1/sL + sC),  R=53.09MEG,  L=46.61K,  C=40.86n
R0002  n0002 n0003  53.09MEG
L0002  n0002 n0003  46.61K
C0001  n0002 n0003  40.86n

* Branch 4: shunt capacitance (near-DC pole)
C0002   n0003  0  1p

.ENDS SIMPLE_RLC_FOSTER

