* Vector Fitting — Foster-I RLC Subcircuit
* Generated by vfit/export/spice_export.py
* Poles: 4   RMS error: 2.956e-11

.SUBCKT SIMPLE_RLC_FOSTER 1 0

* Branch 0: series inductance (e-term)
L0000   1  n0000  1u

* Branch 1: series resistance (d-term)
R0000   n0000  n0001  10

* Branch 2: parallel RLC  pole=-1.4130e+06+7.3253e+06j
* Z = 1/(1/R + 1/sL + sC),  R=21.32p,  L=1.0826e-18,  C=16.6K
R0001  n0001 n0002  21.32p
L0001  n0001 n0002  1.0826e-18
C0000  n0001 n0002  16.6K

* Branch 3: shunt capacitance (near-DC pole)
C0001   n0002  n0003  1.162p

* Branch 4: shunt capacitance (near-DC pole)
C0002   n0003  0  7.166p

.ENDS SIMPLE_RLC_FOSTER

